* VFD-filament regulator netlist for ILC1-1/8 (tube=ilc11_8)
* Generated from test_closed_loop.py make_netlist; matches the
* netlist that the corresponding regulator_ilc11_8.asc was
* converted from. Use to cross-check LTspice's generated netlist.

* Closed-loop VFD-filament regulator with thermal model

.include /home/user/smps-design-tools/ngspice_examples/uopamp.lib

.param T_amb=300.0
.param R_amb=2.46563
.param sigma_eps_A=4.483188e-13
.param C_th=9.181569e-05
.param fil_exp=1.2000

Vcc  vcc 0  9.0
Vee  vee 0 -9.0
* Buffer rails for the class-AB BJT collectors. Class-H envelope-tracking
* servo in booster mode (auto-tunes vcc_buf/vee_buf to V_top_pk + 0.3 V),
* fixed at VCC/VEE in non-booster mode (no buffers to power).
Vcc_buf vcc_buf 0 1.7
Vee_buf vee_buf 0 -1.7

* === Wien bridge oscillator (alpha=0.5) ===
R1   v_osc  ns   10000
C1   ns     np   1.591500e-08  IC=0
R2   np     0    10000
C2   np     0    1.591500e-08  IC=10m
Rg   nn     0    10k
Rfa  nn     fb   10k
Rfb  fb     v_osc  12k
Q1   fb     b1    v_osc Q2N3904
Q2   v_osc  b2    fb    Q2N3904
Rtop1 fb    b1    120000
Rbot1 b1    v_osc 120000
Rtop2 v_osc b2    120000
Rbot2 b2    fb    120000
XU_osc np nn vcc vee v_osc uopamp_lvl2 Avol=10meg GBW=4.5meg Rin=100g Rout=10 Iq=600u Ilimit=1 Vrail=100m Vmax=40 Vos=2.500000e-03

* === JFET-controlled all-pass: V_ap = V_osc * (1 - jwR_DS C)/(1 + jwR_DS C) ===
* All-pass input is taken from v_drv_atten: when a buffer chain is in use,
* this is v_drv_atten (low-Z attenuated signal from Buffer 0); otherwise it
* is v_osc directly. Attenuation keeps V_DS << V_GS-Vto so the JFET stays
* in its linear region, eliminating the asymmetric V_GS shift caused by the
* model's drain/source swap when V_DS reverses polarity.
R_ap1 v_drv_atten n_ap_minus 1590
R_ap2 v_ap  n_ap_minus 1590
* JFET R_DS in series from V_drv_atten (or V_osc) to V+ (cap-shunted node).
* The gate is driven directly by the inverter op-amp's output (v_ctl), so
* gate-channel forward-conduction current during overshoots is sunk by
* the inverter's output stage with no DC offset on V_GS. The bootstrap AC
* signal is summed into the inverter's non-inverting input -- see the
* inverter section below.
J_var v_drv_atten v_ctl n_ap_plus J2N5457
C_ap n_ap_plus 0 1.000000e-07    IC=0
XU_ap n_ap_plus n_ap_minus vcc vee v_ap uopamp_lvl2 Avol=10meg GBW=4.5meg Rin=100g Rout=10 Iq=600u Ilimit=1 Vrail=100m Vmax=40 Vos=2.500000e-03
.model J2N5457 NJF(Vto=-2.5000 Beta=1.0000e-03 Lambda=0)

* === Tube filament thermal-electrical macromodel ===
* The filament behaves as a non-linear resistor R(T) = R_amb*(T/T_amb)^fil_exp
* with thermal capacity C_th and radiative cooling sigma*eps*A*(T^4-T_amb^4).
* Encapsulated as a subcircuit so the controller netlist doesn't carry
* behavioural sources directly -- this is a model of the tube itself.
*   Terminals: v_top, v_bot   (filament endpoints, AC drive across these)
*              T_node          (internal thermal node, exposed for monitoring)
*              r_fil           (instantaneous R(T) as voltage, for monitoring)
* All physical parameters are global .params (R_amb, sigma_eps_A, C_th,
* T_amb, fil_exp) so a single instantiation is enough.
.subckt filament v_top v_bot T_node r_fil
B_fil   v_top v_bot I = (V(v_top) - V(v_bot)) / (R_amb * (V(T_node)/T_amb)^fil_exp)
B_pelec 0 T_node    I = (V(v_top)-V(v_bot))*(V(v_top)-V(v_bot)) / (R_amb * (V(T_node)/T_amb)^fil_exp)
B_prad  T_node 0    I = sigma_eps_A * (V(T_node)^4 - T_amb^4)
C_th    T_node 0    {C_th} IC=300.0
B_R     r_fil 0     V = R_amb * (V(T_node)/T_amb)^fil_exp
.ends filament

* === AC Wheatstone bridge ===
* Filament arm: V_osc -> filament(thermal) -> node_A -> R_sense -> V_ap
X_filament v_osc_drive node_A T_node r_fil filament
R_sen node_A v_ap_drive 2
* Reference arm: V_osc -> R_top_ref -> node_B -> R_bot_ref -> V_ap.
* Bridge balance R_top_ref / R_bot_ref = R_op / R_sen targets R_op exactly.
R_top_ref v_osc_drive node_B 800
R_bot_ref node_B v_ap_drive  200

* === Difference amp (1-op-amp subtractor, gain 1) ===
R_a1 node_A n_diff_minus 1e+06
R_a2 n_diff_minus n_diff 1e+06
R_b1 node_B n_diff_plus 1e+06
R_b2 n_diff_plus 0 1e+06
XU_diff n_diff_plus n_diff_minus vcc vee n_diff uopamp_lvl2 Avol=10meg GBW=4.5meg Rin=100g Rout=10 Iq=600u Ilimit=1 Vrail=100m Vmax=40 Vos=2.500000e-03

* === Comparator (behavioural sign of V_osc) ===
* Comparator: open-loop op-amp (one channel of the second TLV9154 quad).
* V+/V- swapped from the natural "sign of V_osc" connection ONLY when the
* booster is on -- the booster's inverting Buffer 2 flips the loop's
* polarity, so we have to flip the demodulator reference to compensate.
* Without the booster (IV-3), Buffer 2 doesn't exist and Buffer-1's
* non-inverting output preserves the old polarity, so the comparator
* must stay unswapped.
XU_cmp v_osc 0 vcc vee n_cmp uopamp_lvl2 Avol=10meg GBW=4.5meg Rin=100g Rout=10 Iq=600u Ilimit=1 Vrail=100m Vmax=40 Vos=2.500000e-03

* === Polarity-switching demodulator ===
.model swMod SW(VT=0 VH=0.1 RON=10 ROFF=1G)
S1 n_diff vplus n_cmp 0 swMod
S2 0      vplus 0     n_cmp swMod
R_bias vplus 0 1Meg
R_din n_diff n_dem_minus 10k
R_dfb n_demout n_dem_minus 10k
XU_dem vplus n_dem_minus vcc vee n_demout uopamp_lvl2 Avol=10meg GBW=4.5meg Rin=100g Rout=10 Iq=600u Ilimit=1 Vrail=100m Vmax=40 Vos=5.000000e-06

* === Integrator -> V_ctl (loop amp) ===
* V_ctl_raw = -1/(R*C) * integral(V_demout). Cold filament: V_demout < 0,
* so V_ctl_raw integrates positive. We want V_ctl negative when cold so
* the JFET stays pinched off. Wire B_invert to flip sign.
* PID compensator (single-op-amp form):
*   Input: R_INT || C_PID  (the parallel cap adds derivative action)
*   Feedback: R_PID in series with C_INT (the series R adds proportional)
* Transfer function: H(s) = -(R_PID + 1/sC_INT)(1 + sR_INT*C_PID) / R_INT
*   Ki = 1/(R_INT * C_INT)         integrator (DC dominates)
*   Kp = R_PID/R_INT + C_PID/C_INT proportional (mid-band)
*   Kd = R_PID * C_PID             derivative (HF, fights overshoot)
R_intin  n_demout n_int_minus 30000
C_intin  n_demout n_int_minus 1.000000e-09
R_intfb  n_int_pidp v_int_out 300000
* Realistic startup: cap begins uncharged (no IC). Loop self-starts from
* the intentional 1% bridge mismatch above + Vos drift in the demod and
* integrator op-amps.
C_intfb  n_int_minus n_int_pidp 3.183099e-07  IC=0
* HF rolloff cap: in parallel with R_PID to limit HF gain and suppress
* the f0 ripple from V_demod that the D term would otherwise pump
* through to V_ctl.
C_hf     n_int_pidp v_int_out 1.000000e-08     IC=0
XU_int 0 n_int_minus vcc vee v_int_out uopamp_lvl2 Avol=10meg GBW=4.5meg Rin=100g Rout=10 Iq=600u Ilimit=1 Vrail=100m Vmax=40 Vos=5.000000e-06

* Anti-windup: real-circuit clamp on V_int_out using two silicon diodes
* referenced to precision voltage sources. Sized for the 2N5457 V_to=-2.5V
* operating range: V_int_out ~= -V_ctl, so the loop needs V_int_out in
* [0, 2.5] to span the JFET's useful R_DS range. Clamp range chosen as
* [-0.3, +2.5] V (small negative margin keeps the gate reverse-biased).
* The diodes forward-conduct when V_int_out exceeds +2.5 V (Vf ~0.7V over
* the +1.8V reference) or goes below -0.3 V (Vf ~0.7V under the +0.3V
* reference). In production the precision references would be Zeners +
* dividers off the +/-9 V rails, or band-gap parts (TL431, REF03 etc.).
V_clamp_hi v_clamp_hi 0  1.8
V_clamp_lo v_clamp_lo 0  0.3
D_aw_hi    v_int_out  v_clamp_hi Dclamp
D_aw_lo    v_clamp_lo v_int_out  Dclamp
.model Dclamp D(Is=2.52n Rs=0.568 N=1.752 Cjo=4p M=0.4 tt=20n)

* Inverter + JFET-gate bootstrap: V_ctl is the op-amp output that drives
* the JFET gate directly. At DC, n_inv_plus is held to 0 by R_btp, so
* V_ctl = -V_int_out (existing inverter behaviour). At AC the bootstrap
* path R_btd/C_btd and R_bts/C_bts inject (V_drain + V_source) into
* n_inv_plus through R_btp to ground; the op-amp's non-inverting summer
* arrangement gives V_ctl_AC = 2*V(n_inv_plus) = 2*R_btp/(2*R_b + R_btp) *
* (V_d + V_s). With R_b = 100k, R_btp = 18k that's V_ctl_AC = 0.265*(V_d+V_s),
* close to the optimal alpha ~ 0.275 for our topology where the C_ap
* divider gives V_source ~ 0.38*V_drain at f0. Cancels the V_DS-dependent
* term in 1/R_DS = 2*beta*(V_GS - V_to - V_DS/2), reducing JFET-induced
* H2 at v_ap from ~6% to ~3%. The C_b caps block DC so the inverter still
* cleanly tracks V_int_out.
R_inv1 v_int_out  n_inv_minus 100k
R_inv2 n_inv_minus v_ctl       100k
R_btd  v_drv_atten n_btd_mid  100k
C_btd  n_btd_mid   n_inv_plus  10u IC=0
R_bts  n_ap_plus   n_bts_mid   100k
C_bts  n_bts_mid   n_inv_plus  10u IC=0
R_btp  n_inv_plus  0           18k
XU_inv n_inv_plus  n_inv_minus vcc vee v_ctl uopamp_lvl2 Avol=10meg GBW=4.5meg Rin=100g Rout=10 Iq=600u Ilimit=1 Vrail=100m Vmax=40 Vos=2.500000e-03


* Buffer 0: passive attenuator on V_osc, then op-amp follower to feed JFET
* with low-Z attenuated drive. R_atten_top:R_atten_bot = 56k:9.1k -> k_atten
* ~ 7.15, so V_drv_atten ~= V_osc / 7.15 (peak ~0.5 V at V_osc 3.6 V_pk),
* keeping V_DS in the JFET's linear region.
R_atten_top  v_osc          v_atten_input 56k
R_atten_bot  v_atten_input  0             9.1k
XU_buf0      v_atten_input  v_drv_atten   vcc vee v_drv_atten uopamp_lvl2 Avol=10meg GBW=4.5meg Rin=100g Rout=10 Iq=600u Ilimit=1 Vrail=100m Vmax=40 Vos=2.500000e-03

* Buffer 1 (CC emitter follower): V_drv_atten -> V_osc_drive (gain k_buf,
* class-AB BC337/BC327). Bootstrap caps from output to bias-chain midpoints
* lift the bias rail with the signal so the BJT base can drive past vcc_buf
* / vee_buf at peak swing. Feedback divider R_buf1_fb1:R_buf1_fb2 sets k_buf.
XU_buf_osc   v_drv_atten n_buf_osc_fb vcc_buf vee_buf n_buf_osc_out uopamp_lvl2 Avol=10meg GBW=4.5meg Rin=100g Rout=10 Iq=600u Ilimit=1 Vrail=100m Vmax=40 Vos=2.500000e-03
R_buf1_fb1   v_osc_drive n_buf_osc_fb 1500
R_buf1_fb2   n_buf_osc_fb 0           1k
R_obb_top_a  vcc_buf      mid_obb_top  150
R_obb_top_b  mid_obb_top  q_o_bn       150
C_obb_top    mid_obb_top  v_osc_drive  4.7u IC=0
D_obb_top    q_o_bn       n_buf_osc_out Dbias
D_obb_bot    n_buf_osc_out q_o_bp      Dbias
R_obb_bot_b  q_o_bp       mid_obb_bot  150
R_obb_bot_a  mid_obb_bot  vee_buf      150
C_obb_bot    mid_obb_bot  v_osc_drive  4.7u IC=0
Q_o_npn  vcc_buf q_o_bn v_osc_drive QBC337
Q_o_pnp  vee_buf q_o_bp v_osc_drive QBC327

* Buffer 2 (CC emitter follower): V_ap -> V_ap_drive (gain k_buf_ap).
C_buf2_dcblock v_ap         n_buf2_ac    100n IC=0
R_buf2_dcref   n_buf2_ac    0            100k
XU_buf_ap    n_buf2_ac   n_buf_ap_fb     vcc_buf vee_buf n_buf_ap_out uopamp_lvl2 Avol=10meg GBW=4.5meg Rin=100g Rout=10 Iq=600u Ilimit=1 Vrail=100m Vmax=40 Vos=2.500000e-03
R_buf2_fb1   v_ap_drive  n_buf_ap_fb     1500
R_buf2_fb2   n_buf_ap_fb 0               1k
R_abb_top_a  vcc_buf      mid_abb_top  150
R_abb_top_b  mid_abb_top  q_a_bn       150
C_abb_top    mid_abb_top  v_ap_drive   4.7u IC=0
D_abb_top    q_a_bn       n_buf_ap_out Dbias
D_abb_bot    n_buf_ap_out q_a_bp       Dbias
R_abb_bot_b  q_a_bp       mid_abb_bot  150
R_abb_bot_a  mid_abb_bot  vee_buf      150
C_abb_bot    mid_abb_bot  v_ap_drive   4.7u IC=0
Q_a_npn  vcc_buf q_a_bn v_ap_drive QBC337
Q_a_pnp  vee_buf q_a_bp v_ap_drive QBC327
.model Dbias  D(IS=2.52n N=1.752 RS=0.568 BV=80 IBV=0.1m CJO=4p)
.model QBC337 NPN(IS=1e-14 BF=300 BR=10 RB=10 RC=0.5 RE=0.1 IKF=0.8
+ CJC=11p CJE=20p VAF=100)
.model QBC327 PNP(IS=1e-14 BF=300 BR=10 RB=10 RC=0.5 RE=0.1 IKF=0.8
+ CJC=11p CJE=20p VAF=100)

* === 2N3904 ===
.model Q2N3904 NPN(IS=6.734f XTI=3 EG=1.11 VAF=74.03 BF=416.4 NE=1.259
+ ISE=6.734f IKF=66.78m XTB=1.5 BR=.7371 NC=2 ISC=0 IKR=0 RC=1
+ CJC=3.638p MJC=.3085 VJC=.75 FC=.5 CJE=4.493p MJE=.2593 VJE=.75
+ TR=239.5n TF=301.2p ITF=.4 VTF=4 XTF=2 RB=10)

.options reltol=1e-4 abstol=1p chgtol=1f
.tran 10u 5.0 UIC

.control
run
wrdata /home/user/smps-design-tools/ngspice_examples/_ilc11_8_unused.data v(v_osc_drive) v(v_ap_drive) v(node_A) v(node_B) v(n_diff) v(n_demout) v(v_ctl) v(v_int_out) v(T_node) v(r_fil)
.endcontrol

.end
